US08106086B2
(3) Production of 3-(2,5-dihydro-3-methyl-5-oxo-1-phenyl-1H-pyrazol-4-yl)-3,5,6,7-tetrahydro-6,6-dimethyl-1-phenyl-3-trifluoromethyl-1H-indole-2,4-dione
To a chloroform solution (5 ml) of 2-(1,5-dihydro-3-methyl-5-oxo-1-phenyl-4H-pyrazol-4-ylidene)-3,3,3-trifluoro-propanoic acid methyl ester (565 mg, 1.81 mmol), 5,5-dimethyl-3-phenylamino-2-cyclohexen-1-one (390 mg, 1.81 mmol) was added and the mixture was stirred for 14 hours. After concentrating the liquid reaction mixture under reduced pressure, the residue was purified by silica gel flash column chromatography. Thus, the title compound was obtained as a colorless solid (780 mg).

reactant | 2-(1,5-dihydro-3-methyl-5-oxo-1-phenyl-4H-pyrazol-4-ylidene)-3,3,3-trifluoro-propanoic acid methyl ester | 1.81 mmol, 565 mg | COC(C(C(F)(F)F)=C1C(=NN(C1=O)C1=CC=CC=C1)C)=O | C14H11F3N2O3
reactant | 5,5-dimethyl-3-phenylamino-2-cyclohexen-1-one | 1.81 mmol, 390 mg | CC1(CC(=CC(C1)=O)NC1=CC=CC=C1)C | C14H17NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,5-dihydro-3-methyl-5-oxo-1-phenyl-1H-pyrazol-4-yl)-3,5,6,7-tetrahydro-6,6-dimethyl-1-phenyl-3-trifluoromethyl-1H-indole-2,4-dione | CC=1NN(C(C1C1(C(N(C=2CC(CC(C12)=O)(C)C)C1=CC=CC=C1)=O)C(F)(F)F)=O)C1=CC=CC=C1 | C27H24F3N3O3
